US04281003
1-(2,6-DIFLUOROBENZOYL)-3-(5-TRIFLUOROMETHYL-2-PYRIDINYL)UREA
A portion of 5-trifluoromethyl-2-aminopyridine is dissolved in an inert organic solvent, and to the solution is added a portion of 2,6-difluorobenzamidocarboxylic acid, 4-nitrophenyl ester. The reaction mixture is stirred at elevated temperature for a period of time, after which the reaction mixture is evaporated to dryness under vacuum, and the product named in the heading above, identical to the product of Example 1, is isolated by recrystallization.

reactant | 5-trifluoromethyl-2-aminopyridine | FC(C=1C=CC(=NC1)N)(F)F | C6H5F3N2
reactant | 2,6-difluorobenzamidocarboxylic acid, 4-nitrophenyl ester | FC1=C(C(=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C14H8F2N2O5
product | 1-(2,6-DIFLUOROBENZOYL)-3-(5-TRIFLUOROMETHYL-2-PYRIDINYL)UREA | FC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)C(F)(F)F)C(=CC=C1)F | C14H8F5N3O2
